US07838612B2
A 500 mL round-bottom-flask equipped with an addition funnel, stirring bar, and gas inlet was charged with the 4-bromo-biphenyl sulfonic acid, DMF (200 mL) then purged with nitrogen. The flask was chilled in an ice-bath and thionyl chloride (45 mL, 0.62 mol) was added dropwise to the solution from the addition funnel. The flask was allowed to warm to room temperature and stirred for 3 hours. The solution was poured into 2 L ice water to precipitate the product, which was collected by vacuum filtration. The solids were dissolved in ether and the solution was dried with magnesium sulfate, filtered, and evaporated on a rotary evaporator. The resulting solids were dried under vacuum to give 59.66 g (84% yield) and recrystallized from hot toluene (100 mL) by adding cyclohexane (250 mL). The crystals were collected, washed with cyclohexane, and dried under vacuum to give 55.20 g of 4′-bromo-biphenyl-4-sulfonyl chloride (78% yield).

reactant | 4-bromo-biphenyl sulfonic acid | BrC=1C=C(C(=CC1)C1=CC=CC=C1)S(=O)(=O)O | C12H9BrO3S
reactant | thionyl chloride | 0.62 mol, 45 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 4′-bromo-biphenyl-4-sulfonyl chloride | 55.20 g, 78% yield | BrC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8BrClO2S
